US09416090B2
Preparation of Poly(I2DTy-co-10% Tyrosol Carbonate)
In a 1 L 3-necked round-bottomed flask equipped with a mechanical stirrer, and a liquid addition device were placed 45 g (0.084 mol) of I2DTy, 5 g (0.036 mol) of tyrosol, 35.5 g (0.45 mol) of pyridine, and 300 mL of DCM and stirred for 15 min to get a clear solution. Triphosgene (12.3 g, 0.125 mol of phosgene) was dissolved in 32 ml of DCM and the solution was introduced into the reaction flask over 2-3 hours. After the addition was complete, the reaction mixture was quenched with a mixture of 135 mL of THF and 15 mL of water. 350 mL of water was added to the reaction mixture and stirred for 5 min. After allowing the layers to separate, the top aqueous layer was removed and discarded. The washing, was repeated with two additional 350 mL portions of DI water. The reaction mixture was then precipitated with 600 mL of IPA. The resulting gel was ground twice in a 4 L high speed blender. The precipitate obtained was isolated by filtration and dried in a vacuum oven at 80° C. The polymer had a Mw of 318 Kda and a glass transition temperature (Tg) of 100° C. 1H NMR spectrum of the polymer was in agreement with the structure. Compression molding at 190° C. gave a uniform transparent film. Using similar procedures a copolymer with 15% tyrosol was prepared. The properties of the polymers are set forth below:

reactant | tyrosol | 0.036 mol, 5 g | C1=CC(=CC=C1CCO)O | C8H10O2
reactant | pyridine | 0.45 mol, 35.5 g | N1=CC=CC=C1 | C5H5N
reactant | Triphosgene | 0.125 mol, 12.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | DCM | 32 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | Tyrosol Carbonate | C1=CC(=CC=C1CCO)O.C([O-])([O-])=O | InChI=1S/C8H10O2.CH2O3/c9-6-5-7-1-3-8(10)4-2-7;2-1(3)4/h1-4,9-10H,5-6H2;(H2,2,3,4)/p-2
